US08455646B2
Preparation of methanesulfonyloxy-(4-trifluoromethyl-phenyl)-acetic acid ethyl ester (I102)
Hydroxy-(4-trifluoromethyl-phenyl)-acetic acid ethyl ester (I101) (440 mg, 1.77 mmol) and DIPEA (0.43 mL, 2.48 mmol) are dissolved in dry DCM (17 mL) and cooled at 0° C. under N2. Methansulfonyl chloride (0.18 mL, 2.30 mmol) is added dropwise to the solution and the resulting mixture is allowed to warm to RT and stirred for 3 hours. The mixture is diluted with DCM and washed with sat. NaHCO3, water and brine. The organic layer is dried (Na2SO4), filtered and evaporated to obtain intermediate I150 as a yellow oil (578 mg, quantitative yield), which is used in the next step without any further purification.

reactant | Hydroxy-(4-trifluoromethyl-phenyl)-acetic acid ethyl ester | 1.77 mmol, 440 mg | C(C)OC(C(C1=CC=C(C=C1)C(F)(F)F)O)=O | C11H11F3O3
reactant | DIPEA | 2.48 mmol, 0.43 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Methansulfonyl chloride | 2.30 mmol, 0.18 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 17 mL | C(Cl)Cl | CH2Cl2
product | methanesulfonyloxy-(4-trifluoromethyl-phenyl)-acetic acid ethyl ester | 578 mg, quantitative yield | C(C)OC(C(C1=CC=C(C=C1)C(F)(F)F)OS(=O)(=O)C)=O | C12H13F3O5S
